US09403805B2
To a stirred solution of (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester (350 mg, 0.85 mmol) in methanol (8 mL) was added lithium hydroxide (204 mg, 8.53 mmol) and the mixture was stirred at room temp. for 24 h. The reaction mixture was then acidified with dilute hydrochloric acid, extracted with ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, filtered, concentrated and purified by column chromatography (using 15% EtOAc in hexane as eluent) to give (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid (250 mg, 74.0% yield) as a white solid. MS caled. for C23H29N2O4[(M+H)+] 397.0, obsd. 397.6.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | 0.85 mmol, 350 mg | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C24H30N2O4
reactant | lithium hydroxide | 8.53 mmol, 204 mg | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid | 250 mg, 74.0% yield | C1(CCCCC1)CN1[C@@H](C[C@@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C(=O)O | C23H28N2O4
